2193-09-10 06:48:00 Physician Resident Progress Note
Chief Complaint: altered mental status and hypercarbic respiratory
   failure
   24 Hour Events:
   Patient had several episodes of hypoglycemia in the morning and had no
   IV access.   NPH stopped. Unable to get PICC.  Right IJ placed.
   ABG showed persistently elevated but improving PCO2 during the day.
   Mental status improved to AxOx3 and patient was weaned to nasal
   canula.  She used O2 overnight.
   She was evaluated by neurology who felt she had either myoclonus or
   partial seizure secondary to hypercarbia.  They did not feel her
   presentation was consistent with a neuromuscular disease.  They
   recommended EEG, MRI and TSH.
   A CT head showed no hemorrhage or edema and moerately severe chronic
   microvascular infarct.
   Her S Tox and UTox were negative.
   Febrile to 100.6, patient cultured.  UA was positive, so started on
   cipro for presumed UTI.
 MULTI LUMEN - START [**2193-9-9**] 04:00 PM
 BLOOD CULTURED - At [**2193-9-10**] 12:03 AM
 URINE CULTURE - At [**2193-9-10**] 03:00 AM
   Allergies:
   Diovan (Oral) (Valsartan)
   Drowsiness/Fati
   Mavik (Oral) (Trandolapril)
   Cough;
   Norvasc (Oral) (Amlodipine Besylate)
   Nausea/Vomiting
   Diclofenac
   gi upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2193-9-9**] 12:25 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-10**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-10**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.5
C (97.7
   HR: 64 (62 - 83) bpm
   BP: 132/56(74) {116/52(70) - 189/116(123)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (-1 - 19)mmHg
   Total In:
                                                                    330 mL
                                                                     67 mL
   PO:
   TF:
   IVF:
                                                                    330 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    200 mL
   Urine:
                                                                    880 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -550 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (47 - 529) mL
   PS : 15 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.30/82.[**Numeric Identifier **]/107/39/11
   Ve: 4.5 L/min
   PaO2 / FiO2: 357
   Physical Examination
   Gen: in bed, with bipap, + myoclonic jerking, oriented x 3
   HEENT MMM, :
   CV RRR. distant:
   PULM: good movement, CTA
   ABD: distended, soft, nontender
   Ext: + pulses
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   11.4 g/dL
   86 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.7 mEq/L
   14 mg/dL
   96 mEq/L
   137 mEq/L
   34.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2193-9-9**]  06:59 AM
                             [**2193-9-9**]  12:35 PM
                             [**2193-9-9**]  06:54 PM
                             [**2193-9-9**]  10:00 PM
                             [**2193-9-10**]  03:39 AM
   WBC
   7.1
   Hct
   34.9
   Plt
   209
   Cr
   0.9
   TCO2
   41
   41
   43
   Glucose
   147
   86
   Other labs: PT / PTT / INR:13.9/40.7/1.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   [**9-9**] CXR
   FINDINGS: Compared to [**9-7**], there is bilateral opacification in the
   lower
   lungs, most likely consistent with bilateral effusion and associated
   basilar
   atelectasis bilaterally. The heart silhouette is enlarged as also noted
   on
   the previous scan, and there is bilateral mild prominence of the
   interstitium.
   This discrepancy between the size of the heart silhouette and the
   interstitial
   markings might raise the question of cardiomyopathy or pericardial
   effusion.
   This finding should be correlated clinically. The visualized osseous
   and soft
   tissue structures are unchanged compared to the previous scan.
   IMPRESSION: Bilateral pleural effusion with associated bilateral basal
   atelectasis.
   [**9-9**] CT HEAD
   1. No hemorrhage or edema.
   2. Moderately severe chronic microvascular infarction.
   Assessment and Plan
   78 y.o. F with CHF, HTN, DM transeferred to MICU with hypercapnic
   respiratory failure and altered mental status.
   .
   #Delta MS/hypercapnic respiratory failure: Unclear precipitant, but
   markedly improved with Bipap and now back to normal mental status.  She
   likely has underlying pulmonary disease; it may be that the addition of
   nasal cannula oxygen on [**9-8**] decreased her hypoxic drive leading to
   hypercapnic respiratory failure.   She also has an infection (UTI)
   which may contribute.  I suspect she has undiagnosed obstructive sleep
   apnea as well.  Her serum/urine tox: negative for narcotics/benzos.
   Reglan has been associated with altered mental status, I question
   whether this may have contributed.   Neurology felt she is unlikely to
   have an underlying neuromuscular disorder.
   -Continue Bipap at night, perform
mini sleep study
  tonight
   (respiratory aware).
   -outpt polysomnogram
   -MRI head
   -TTE
   -O2 by nasal cannula to maintain O2 sat of 90-93%
   .
   UTI:
   -Ciprofloxacin day 1 [**2193-9-9**]
   -follow up micro data
   .
   # Abd distension- normoactive bowel sounds.  Distension improved. Most
   likely due to gastroparesis.
   -bowel regimen
   -outpt gastric emptying study
   .
   #HTN- on atenolol.
   .
   #DM: holding NPH due to hypoglycemia yesterday (likely due to lack of
   PO intake with altered mental status). Covered with HISS. Diabetic
   diet.
   .
   #CHF: unknown EF, may have diastolic dysfunction from echo in [**2185**].
   - continue lasix for now
   -repeat echo
   .
   #PVD: s/p left SFA stent and angioplasty. continue plavix.
   .
   #Hyperlipidemia: continue Zocor.
   ICU Care
   Nutrition:
   Glycemic Control:  hiss
   Lines:  R IJ
   Multi Lumen - [**2193-9-9**] 04:00 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: ppi
   VAP:  na
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: micu for now

2193-09-10 10:51:00 Physician Attending Progress Note
Chief Complaint: hypercarbia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   73 y/o F w/longstanding diabetes, adm for nausea and vomiting, now with
   hypercarbic respiratory failure.
   24 Hour Events:
 MULTI LUMEN - START [**2193-9-9**] 04:00 PM
 BLOOD CULTURED - At [**2193-9-10**] 12:03 AM
 URINE CULTURE - At [**2193-9-10**] 03:00 AM
   Low grade temp to 100.6, UA positive so started on cipro.
   Pco2 improved to 80s, with this mental status improved.
   Allergies:
   Diovan (Oral) (Valsartan)
   Drowsiness/Fati
   Mavik (Oral) (Trandolapril)
   Cough;
   Norvasc (Oral) (Amlodipine Besylate)
   Nausea/Vomiting
   Diclofenac
   gi upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2193-9-9**] 12:25 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-10**] 04:00 AM
   Other medications:
   insulin sliding scale, lasix 20 mg IV daily, plavix, atenolol, cipro
   [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-10**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.9
   HR: 63 (63 - 83) bpm
   BP: 167/72(96) {124/52(74) - 189/116(123)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 17 (-1 - 19)mmHg
   Total In:
                                                                    330 mL
                                                                    106 mL
   PO:
   TF:
   IVF:
                                                                    330 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    310 mL
   Urine:
                                                                    880 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -550 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (462 - 529) mL
   PS : 15 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.30/82.[**Numeric Identifier **]/107/39/11
   Ve: 4.5 L/min
   PaO2 / FiO2: 357
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, mild
   distension
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Not assessed,
   approriate, interactive
   Labs / Radiology
   11.4 g/dL
   209 K/uL
   86 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.7 mEq/L
   14 mg/dL
   96 mEq/L
   137 mEq/L
   34.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2193-9-9**]  06:59 AM
                             [**2193-9-9**]  12:35 PM
                             [**2193-9-9**]  06:54 PM
                             [**2193-9-9**]  10:00 PM
                             [**2193-9-10**]  03:39 AM
   WBC
   7.1
   Hct
   34.9
   Plt
   209
   Cr
   0.9
   TCO2
   41
   41
   43
   Glucose
   147
   86
   Other labs: PT / PTT / INR:13.9/40.7/1.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR:  flattened hemidiaphragms.  New hazy opacities at
   bilateral bases
   Assessment and Plan
   73 y/o F w/longstanding diabetes, adm for nausea and vomiting, now with
   hypercarbic respiratory failure.  Symptoms are suggestive of
   neuromuscular weakness given history, and abdominal distention is
   likely also limiting her respiratory status.
   1. Hypercarbic respiratory failure:  Unclear etiology, although her pH
   and bicarb suggest this is chronic.  Looks much better today.  Very
   likely has OSA and/or obesity hypoventilation.
   - appreciate Neurology recs
   - EEG, MRI today
   - serial ABGs
   - needs sleep study
   2. Abdominal distention:  Admitted with nausea/vomiting; per family has
   chronic constipation.  Also likely some component of gastroparesis
   given her longstanding diabetes.  Pt reports improved today. Plan for
   outpt gastric emptying study.
   - aggressive bowel regimen
   3.  HTN:  Restart antihypertensives.
   4. DM:  Holding insulin for now as was hypoglycemic yesterday.  Restart
   diet, insulin sliding scale.
   5. CHF:  On lasix at home.  Has hx diastolic dysfunction.  Restart home
   meds.
   6. UTI: cipro.
   ICU Care
   Nutrition:
   Comments: restart diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-9-9**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU: Will monitor overnight and likely to floor in AM.
   Total time spent: 45 min

2193-09-11 10:40:00 Physician Attending Progress Note
Chief Complaint: hypercarbia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 y/o F w/longstanding diabetes, adm for nausea and vomiting, now with
   hypercarbic respiratory failure.  Symptoms are suggestive of
   neuromuscular weakness given history, and abdominal distention is
   likely also limiting her respiratory status.
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-11**] 04:14 AM
   TTE with mild LVH.  Poor study.
   Did not tolerate MRI due to hypertension.  Has been hypertensive all
   day.
   Was on bipap overnight; had period of unresponsiveness.   Then improved
   spontaneously.  ABG at that point 7.39/68/53.
   Allergies:
   Diovan (Oral) (Valsartan)
   Drowsiness/Fati
   Mavik (Oral) (Trandolapril)
   Cough;
   Norvasc (Oral) (Amlodipine Besylate)
   Nausea/Vomiting
   Diclofenac
   gi upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2193-9-10**] 05:11 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-10**] 08:30 PM
   Other medications:
   insulin sliding scale, plavix, cipro 250 [**Hospital1 **], colace, simvastatin,
   prilosec, nortriptyline, lasix, atenolol, nifedipine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-11**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 67 (62 - 70) bpm
   BP: 176/70(95) {117/48(69) - 194/134(139)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 19 (-9 - 20)mmHg
   Total In:
                                                                  1,225 mL
                                                                    425 mL
   PO:
                                                                    960 mL
                                                                    320 mL
   TF:
   IVF:
                                                                    240 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                  1,130 mL
   Urine:
                                                                  1,385 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, CPAP mask
   FiO2: 1L
   SpO2: 100%
   ABG: 7.39/68/53/35/12
   PaO2 / FiO2: 177
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   194 K/uL
   169 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.5 mEq/L
   17 mg/dL
   94 mEq/L
   135 mEq/L
   37.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2193-9-9**]  06:59 AM
                             [**2193-9-9**]  12:35 PM
                             [**2193-9-9**]  06:54 PM
                             [**2193-9-9**]  10:00 PM
                             [**2193-9-10**]  03:39 AM
                             [**2193-9-10**]  06:46 PM
                             [**2193-9-11**]  12:41 AM
                             [**2193-9-11**]  03:19 AM
   WBC
   7.1
   6.8
   Hct
   34.9
   38.2
   37.5
   Plt
   209
   194
   Cr
   0.9
   0.8
   TCO2
   41
   41
   43
   43
   Glucose
   147
   86
   169
   Other labs: PT / PTT / INR:13.8/49.3/1.2, Differential-Neuts:73.2 %,
   Lymph:19.0 %, Mono:5.1 %, Eos:2.4 %, Lactic Acid:0.7 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   73 y/o F w/longstanding diabetes, adm for nausea and vomiting, now with
   hypercarbic respiratory failure.  Symptoms are suggestive of
   neuromuscular weakness given history, and abdominal distention is
   likely also limiting her respiratory status.
   1. Hypercarbic respiratory failure:  Unclear etiology, although her pH
   and bicarb suggest this is chronic.  Looks much better today.  Very
   likely has OSA and/or obesity hypoventilation.  Likely that her
   hypercarbia was exacerbated by supplemental oxygen provided on the
   floor.
   - appreciate Neurology recs
   - pt refusing MRI
   - sleep consult on floor
   -  use autoset device (last night required cpap 7)
   - goal SpO2 low 90s
   2. Abdominal distention:  Admitted with nausea/vomiting; per family has
   chronic constipation.  Also likely some component of gastroparesis
   given her longstanding diabetes.  Plan for outpt gastric emptying
   study.
   3.  HTN:  Restart antihypertensives.
   4. DM:  Overnight fingersticks in 150s-160s.  Eating diabetic diet.
   Add back NPH once fingersticks consistently higher (was 70s yest
   afternoon).
   5. CHF:  On lasix at home.  Has hx diastolic dysfunction.  Restart home
   meds.
   6. UTI: cipro.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2193-9-9**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 min